US08058299B2
A mixture of (S)-3-(5-nitro-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 1.67 mmol), 10% palladium on carbon (80 mg) in methanol (10 mL) was hydrogenated at 50 psi in a Parr Shaker at room temperature for 2 h. The reaction mixture was then filtered through a plug of celite and the filtration pad was washed with ethyl acetate. The organic layers were collected and concentrated to give (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (490 mg, crude) as a light red solid, which was directly used in the next step without further purification.

reactant | (S)-3-(5-nitro-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.67 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C14H20N4O4
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | (S)-3-(5-amino-pyridin-2-ylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 490 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=NC=C(C=C1)N | C14H22N4O2
